US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-acetylamino-phenylboronic acid to give N-{4-[3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-phenyl}-acetamide. LC-MS m/e 358(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | 4-acetylamino-phenylboronic acid | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
product | N-{4-[3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-phenyl}-acetamide | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)C1=CC=C(C=C1)NC(C)=O | C21H19N5O
